US04728654
2-Methoxy-6-[4-methoxycarbonylphenyl]quinoline
t-Butyllithium (30 cm3 of a 2.0M solution in n-pentane) was added dropwise at -70° to a stirred solution of 6-bromo-2-methoxyquinoline (7.14 g) in tetrahydrofuran (THF) (50 cm3) under nitrogen. After 10 minutes a solution of anhydrous zinc chloride (4.09 g) in THF (30 cm3) was added and the solution was allowed to warm to room temperature. A mixture of methyl 4-iodobenzoate (7.8 g) and tetrakis(triphenylphosphine)palladium (0) (0.32 g) was added and the mixture was heated under reflux for 1 hour. Volatile material was removed in vacuo and the residue was partitioned between chloroform (150 cm3) and a solution of ethylenediaminetetraacetic acid disodium salt (22.4 g) in water (400 cm3). The aqueous phase was further extracted with chloroform (2×100 cm3), and the combined and dried (MgSO4) organic extracts were evaporated to give a solid which was recrystallised from acetone to afford the title compound, m.p. 158°-161°, (6.81 g).

reactant | t-Butyllithium | C(C)(C)(C)[Li]
reactant | 6-bromo-2-methoxyquinoline | 7.14 g | BrC=1C=C2C=CC(=NC2=CC1)OC | C10H8BrNO
reactant | methyl 4-iodobenzoate | 7.8 g | IC1=CC=C(C(=O)OC)C=C1 | C8H7IO2
solvent | n-pentane | CCCCC | C5H12
solvent | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
solvent | THF | 30 cm3 | O1CCCC1 | C4H8O
catalyst | zinc chloride | 4.09 g | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine)palladium | 0.32 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Methoxy-6-[4-methoxycarbonylphenyl]quinoline | COC1=NC2=CC=C(C=C2C=C1)C1=CC=C(C=C1)C(=O)OC | C18H15NO3
